US07074800B1
1M Sodium HMDS in THF (0.84 ml, 8.4 mmol) was added to a suspension of 7-(2-carboxyvinyl)-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (105 mg, 0.28 mmol) and 5-hydroxy-2methylindole (82 mg, 0.56 mmol), (prepared as described for the starting material in Example 48), in DMSO (1.5 ml). After stirring for 2 hours at ambient temperature, the mixture was partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH3 with 2M hydrochloric acid. The organic layer was washed with water, brine, dried (MgSO4) and evaporated. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 90/10 and 70/30) to give 7-(2-carboxyvinyl)-6-methoxy-4-(2-methylindol-5-yloxy)quinazoline (75 mg, 71%).

reactant | Sodium HMDS | 1M | [Na].C[Si](C)(C)N[Si](C)(C)C
reactant | THF | 8.4 mmol, 0.84 ml | C1CCOC1 | C4H8O
reactant | 7-(2-carboxyvinyl)-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 0.28 mmol, 105 mg | C(=O)(O)C=CC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C18H12ClFN2O4
reactant | 5-hydroxy-2methylindole | 0.56 mmol, 82 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | 7-(2-carboxyvinyl)-6-methoxy-4-(2-methylindol-5-yloxy)quinazoline | 75 mg, 71% | C(=O)(O)C=CC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C21H17N3O4
